US08633173B2
5-Phenyl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine was prepared from 5-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (3.00 g, 14.0 mmol) and phenyl boronic acid (1.8 g, 15.0 mmol), in a manner analogous to Step 73c. The product was isolated as a white powder (0.567 g, 19%) after chromatography on an Isco silica gel column (80 g) using methanol in dichloromethane as the eluent. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 7.94 (d, J=6.9 Hz, 2H), 7.52 (m, 4H), 7.37 (m, 1H), 7.02 (d, J=6.5 Hz, 1H), 6.02 (s, 2H). MS=210 (MH)+.

reactant | 5-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 14.0 mmol, 3.00 g | BrC1=CC=CC=2N1N=C(N2)N | C6H5BrN4
reactant | phenyl boronic acid | 15.0 mmol, 1.8 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 5-Phenyl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | C1(=CC=CC=C1)C1=CC=CC=2N1N=C(N2)N | C12H10N4
